US07592347B2
(S)-1-Isopropyl-4-(piperidine-4-carbonyl)-3-methylpiperazine dihydrochloride (D23)
(S)-1-Isopropyl4-[1-(tert-butoxycarbonyl)-piperidine4-carbonyl]-3-methylpiperazine (D22)(0.11 g) was dissolved in methanol (10 ml) and treated with HCl (4N HCl in diethyl ether; 10 ml). After being stirred at rt overnight the reaction mixture was evaporated to a minimum, co-evaporated from methanol, and then dried at 50° C. to give the title compound (D23) as a pale brown solid (0.10 g)

reactant | (S)-1-Isopropyl4-[1-(tert-butoxycarbonyl)-piperidine4-carbonyl]-3-methylpiperazine | 0.11 g | C(C)(C)N1C[C@@H](N(CC1)C(=O)C1CCN(CC1)C(=O)OC(C)(C)C)C | C19H35N3O3
reactant | HCl | 4N, 10 ml | Cl | ClH
solvent | methanol | 10 ml | CO | CH4O
product | (S)-1-Isopropyl-4-(piperidine-4-carbonyl)-3-methylpiperazine dihydrochloride | Cl.Cl.C(C)(C)N1C[C@@H](N(CC1)C(=O)C1CCNCC1)C | InChI=1S/C14H27N3O.2ClH/c1-11(2)16-8-9-17(12(3)10-16)14(18)13-4-6-15-7-5-13;;/h11-13,15H,4-10H2,1-3H3;2*1H/t12-;;/m0../s1
